US06967197B2
To a suspension of 2-[(S)-7-(5-bromo-2-thienyl)-4-(9-fluorenylmethoxycarbonyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetic acid (S)-(−)-α-methylbenzylamine salt (18.0 g) in ethyl acetate (500 ml) was added 1M hydrochloric acid (500 ml) at room temperature. After being stirred for 20 minutes, an organic layer was separated and washed successively with 5% hydrochloric acid and brine, dried over magnesium sulfate, and concentrated in vacuo to give 2-[(S)-7-(5-bromo-2-thienyl)-4-(9-fluorenylmethoxycarbonyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetic acid (14.6 g) as an amorphous powder.

reactant | 2-[(S)-7-(5-bromo-2-thienyl)-4-(9-fluorenylmethoxycarbonyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetic acid (S)-(−)-α-methylbenzylamine salt | 18.0 g | C[C@@H](C1=CC=CC=C1)N.BrC1=CC=C(S1)[C@]1(CCN(CCS1(=O)=O)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC(=O)O
reactant | hydrochloric acid | 1M, 500 ml | Cl | ClH
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(S)-7-(5-bromo-2-thienyl)-4-(9-fluorenylmethoxycarbonyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetic acid | 14.6 g | BrC1=CC=C(S1)[C@]1(CCN(CCS1(=O)=O)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC(=O)O | C26H24BrNO6S2
